US04980360
To a stirred mixture of 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline (4.98 g, 0.02 mol), 1-bromo-8-phenyloctane (4.7 g, 0.017 mol) and HMPA (13 ml), at 120° C., was added, dropwise, during 1 h, a mixture of propylene oxide (6 ml) and Et3N (1 ml). The reaction was continued for 3.5 h, allowed to cool and extracted successively with pet ether, Et2O and Me2CO leaving 1 g of insoluble starting material, 5-hydroxy-6-methoxy-4methyl-8-nitroquinoline. The combined pet ether and Et2O extracts were washed (H2O, dil NaOH, H2O), dried (Na2SO4) and concentrated. The residue was dissolved in CHCl3, placed on a silica gel column and eluted with CHCl3. Concentration of the eluates left an oil which was triturated with pet ether to give 4.35 g (60%) of 6-methoxy-4-methyl-8-nitro-5(8-phenyloctoxy) quinoline as yellow solid, mp 39.5°-41° C. Crystallization from hexane (Darco) provided the analytical sample as yellow crystals, mp 41°-42° C.

reactant | 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline | 0.02 mol, 4.98 g | OC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C11H10N2O4
reactant | 1-bromo-8-phenyloctane | 0.017 mol, 4.7 g | BrCCCCCCCCC1=CC=CC=C1 | C14H21Br
reactant | HMPA | 13 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | propylene oxide | 6 ml | C1C(C)O1 | C3H6O
solvent | Et3N | 1 ml | CCN(CC)CC | C6H15N
product | 6-methoxy-4-methyl-8-nitro-5(8-phenyloctoxy) quinoline | 4.35 g, 60% | COC=1C(=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C)OCCCCCCCCC1=CC=CC=C1 | C25H30N2O4
